US05635527
In the same manner as in Example 1 (2), 6-cyano-2-indolecarboxylic acid (244 mg, 1.31mmol) and t-butyl trans-(4-aminocyclohexyloxy)acetate (300 mg, 1.3 mmol ) were condensed. The reaction mixture was purified by silica gel column chromatography (chloroform/methanol=50/1-1/1) to give 465 mg of t-butyl trans-[4-[(6-cyano-2-indolyl)carbonylamino]cyclohexyloxy]acetate as a brown solid (89%).

reactant | 6-cyano-2-indolecarboxylic acid | 1.31mmol, 244 mg | C(#N)C1=CC=C2C=C(NC2=C1)C(=O)O | C10H6N2O2
reactant | t-butyl trans-(4-aminocyclohexyloxy)acetate | 1.3 mmol, 300 mg | N[C@@H]1CC[C@H](CC1)OCC(=O)OC(C)(C)C | C12H23NO3
product | t-butyl trans-[4-[(6-cyano-2-indolyl)carbonylamino]cyclohexyloxy]acetate | 465 mg, 89% | C(#N)C1=CC=C2C=C(NC2=C1)C(=O)N[C@@H]1CC[C@H](CC1)OCC(=O)OC(C)(C)C | C22H27N3O4
